US07456200B2
3-Chloro-benzoic acid hydrazide (170 mg, 1 mmol) and 2-bromo-1,1,1-triethoxypropane (1 ml) were heated in a sealed vial at 120° C. for 10 min. The reaction mixture was place directly onto a flash column (silica gel) and purified using 0-50% dichloromethane in hexanes. The product was re-purified by flash column chromatography using a mixture of ethyl acetate:hexanes:dichloromethane (1:19:20) to afford 2-(1-bromo-ethyl)-5-(3-chloro-phenyl)-[1,3,4]oxadiazole (93 mg, 32%, colorless oil). 1H NMR (CDCl3) d (ppm): 8.09 (t, 1H), 7.99 (t, 1H), 7.55 (m, 3H), 5.30 (m, 1H), 2.21 (q, 3H).

reactant | 3-Chloro-benzoic acid hydrazide | 1 mmol, 170 mg | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | 2-bromo-1,1,1-triethoxypropane | 1 ml | BrC(C(OCC)(OCC)OCC)C | C9H19BrO3
product | 2-(1-bromo-ethyl)-5-(3-chloro-phenyl)-[1,3,4]oxadiazole | 93 mg, 32% | BrC(C)C=1OC(=NN1)C1=CC(=CC=C1)Cl | C10H8BrClN2O
